US06727264B1
N-(3-{1-[3-(2,3-DIHYDRO-1H-INDEN-5-YL)-3-OXOPROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Procedure K (KI) and Scheme E (K2CO3) using 3-chloro-1-(2,3-dihydro-1H-inden-5-yl)-1-propanone and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 419.2 (M+H)+.

reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-chloro-1-(2,3-dihydro-1H-inden-5-yl)-1-propanone | ClCCC(=O)C=1C=C2CCCC2=CC1 | C12H13ClO
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | N-(3-{1-[3-(2,3-DIHYDRO-1H-INDEN-5-YL)-3-OXOPROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | C1CCC2=CC(=CC=C12)C(CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)=O | C27H34N2O2
